US04277470
(d) 3-Phenyl-spiro[bicyclo[2.2.2]-octane-2,2'-pyrrolidin]-5'-thione
33 mmoles of 3-phenyl-spiro[bicyclo[2.2.2]-octane-2,2'-pyrrolidin]-5'-one are dispersed in 200 ml of toluene, and a mixture of 7.3 g of phosphorus pentasulfide and 7 g of calcium oxide is added, whilst stirring, and the mixture is stirred at 50° C. for 21/2 hours. The hot reaction solution is filtered into a saturated sodium carbonate solution. The residues are dissolved in concentrated hydrochloric acid and the solution is diluted with water and carefully combined with the toluene/sodium carbonate mixture. The aqueous phase is extracted several times with toluene and the extracts are combined, dried and concentrated in vacuo. Recrystallization of the residue from a little ethyl acetate gives colorless crystals.

reactant | 3-phenyl-spiro[bicyclo[2.2.2]-octane-2,2'-pyrrolidin]-5'-one | 33 mmoles | C1(=CC=CC=C1)C1C2CCC(CC2)C12NC(CC2)=O | C17H21NO
reactant | phosphorus pentasulfide | 7.3 g | P12(=S)SP3(=S)SP(=S)(S1)SP(=S)(S2)S3 | P4S10
reactant | calcium oxide | 7 g | [O-2].[Ca+2]
solvent | toluene | 200 ml | C1(=CC=CC=C1)C | C7H8
product | 3-Phenyl-spiro[bicyclo[2.2.2]-octane-2,2'-pyrrolidin]-5'-thione | C1(=CC=CC=C1)C1C2CCC(CC2)C12NC(CC2)=S | C17H21NS
